US05807866
(g) (3R)-(-)-3-(3-Bromophenyl)-3-(7-benzyloxyindol-1-yl)propan-1-ol
A stirred solution of (3R)-(-)-3-(3-bromophenyl)-3-(7-benzyloxyindolin-1-yl)propan-1-ol (1.0 g, 2.28 mmol) in dry dichloromethane (30.0 ml) under nitrogen at 5° C. was treated with triethylamine (0.52 ml, 3.77 mmol) followed by chlorotrimethylsilane (0.32 ml, 2.52 mmol) dropwise. The resulting suspension was stirred at room temperature for 20 min, treated with 2,3-dichloro-5, 6-dicyano-1,4-benzoquinone (0.57 g, 2.52 mmol) and stirred at room temperature until the reaction was judged to be complete from TLC inspection (~30 min). The solvent was removed by evaporation, the residue was taken up in ethyl acetate (200 ml), washed with 2M aqueous sodium hydroxide (3×100 ml), brine (100 ml) and 2M aqueous hydrochloric acid (2×100 ml). Evaporation of the dried organic extracts (Na2SO4) gave a yellow/brown oil. Column chromatography (ethyl acetate--light petroleum (b.p. 40°-60° C.), 1:4) gave the title compound as a yellow oil (0.80 g, 80%). [α]D26 -157 (c=0.014 gml-1, CHCl3); νmax (thin film)/cm-1 3418.5 (br. OH), 3064.5, 3033.5, 2935.5, 2879.0, 1593.5, 1570.5; δH (270 MHz) 2.35 (2H, m, 2×2-H); 3.50 (2H, m, 2×1-H); 5.13 (2H, q, CH2Ph, 2J=11.1 Hz); 6.6 (m, 2H, 3-H, indole 3-H); 6.72 (1H, dd, indole 6-H, Jo =7.6 Hz, Jm =0.7 Hz); 6.90 (1H, dd, indole 4-H, Jo =8.3 Hz, Jm =0.8 Hz); 7.00 (2H, m, indole 5-H, 5'-H); 7.15 (1H, d, indole 2-H, 3J2,3 =3.0 Hz); 7.19-7.40 (8H, m, 8ArH). δC (67.8 MHz) 38.4 (2-C); 56.4 (3-C); 59.3 (1-C); 70.7 (PhCH2); 103.2 (indole 3-C); 104.3 (indole 6-C); 114.3 (indole 4-C); 120.1 (indole 5-C); 122.5 (3'-C); 125.0 (indole 2-C); 131.8 (1'-C); 136.4 (benzyl ipso-C); 144.9 (indole 7a-C); 146.5(indole 7-C). The remaining signals lie between 126.5-130.7 ppm and cannot be assigned with any certainty.

reactant | (3R)-(-)-3-(3-bromophenyl)-3-(7-benzyloxyindolin-1-yl)propan-1-ol | 2.28 mmol, 1.0 g | BrC=1C=C(C=CC1)[C@@H](CCO)N1CCC2=CC=CC(=C12)OCC1=CC=CC=C1 | C24H24BrNO2
reactant | triethylamine | 3.77 mmol, 0.52 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 2.52 mmol, 0.32 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2,3-dichloro-5, 6-dicyano-1,4-benzoquinone | 2.52 mmol, 0.57 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dichloromethane | 30.0 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R)-(-)-3-(3-Bromophenyl)-3-(7-benzyloxyindol-1-yl)propan-1-ol | 0.80 g, 80% | BrC=1C=C(C=CC1)[C@@H](CCO)N1C=CC2=CC=CC(=C12)OCC1=CC=CC=C1 | C24H22BrNO2
